US08912200B2
2-(5-Chloro-2-methylphenyl)-4-iodo-5-(2-methylpyrimidin-4-yl)-1H-pyrrole-3-carboxamide (XXIV)
2-(5-Chloro-2-methylphenyl)-4-iodo-5-[2-(methylamino)pyrimidin-4-yl]-1H-pyrrole-3-carboxamide (47 mg, 0.1 mmol) in dry ACN (1 mL) was treated with 1-(4-ethynylphenyl)-4-methylpiperazine (40 mg, 0.2 mmol) and TEA (0.14 mL, 1 mmol). The flask was stirred and purged with nitrogen and then solid CuI (1.0 mg, 0.005 mmol) and Pd(Ph3P)2Cl2 (3.5 mg, 0.005 mmol) were added. The reaction was refluxed for 2 h, then the solvent was evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH/7N NH3 in MeOH 95/4/1) to afford the title compound (41 mg, 76%).

reactant | 2-(5-Chloro-2-methylphenyl)-4-iodo-5-[2-(methylamino)pyrimidin-4-yl]-1H-pyrrole-3-carboxamide | 0.1 mmol, 47 mg | ClC=1C=CC(=C(C1)C=1NC(=C(C1C(=O)N)I)C1=NC(=NC=C1)NC)C | C17H15ClIN5O
reactant | 1-(4-ethynylphenyl)-4-methylpiperazine | 0.2 mmol, 40 mg | C(#C)C1=CC=C(C=C1)N1CCN(CC1)C | C13H16N2
solvent | ACN | 1 mL | C(C)#N | C2H3N
catalyst | CuI | 0.005 mmol, 1.0 mg | [Cu]I
catalyst | Pd(Ph3P)2Cl2 | 0.005 mmol, 3.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(5-Chloro-2-methylphenyl)-4-iodo-5-(2-methylpyrimidin-4-yl)-1H-pyrrole-3-carboxamide | 41 mg, 76% | ClC=1C=CC(=C(C1)C=1NC(=C(C1C(=O)N)I)C1=NC(=NC=C1)C)C | C17H14ClIN4O
